US07132428B2
a) 2-Methoxy-N-(3-methyl-5-phenyl-1H-pyrazol-4-yl)-acetamide (BA1).
To a RT solution of 416 mg of 3-methyl-5-phenyl-1H-pyrazol-4-ylamine in 4.6 mL pyridine was added 242 μL of methoxyacetyl chloride. After 2 h at RT, the reaction mixture was concentrated under reduced pressure and the residue was dissolved in chloroform and washed with 0.5 N hydrochloric acid and saturated aqueous sodium carbonate and brine. The organic portion was dried with sodium sulfate and concentrated under reduced pressure. The residue contained the title compound as a tan, amorphous solid and was used without further purification.

reactant | 3-methyl-5-phenyl-1H-pyrazol-4-ylamine | 416 mg | CC1=NNC(=C1N)C1=CC=CC=C1 | C10H11N3
reactant | methoxyacetyl chloride | 242 μL | COCC(=O)Cl | C3H5ClO2
solvent | pyridine | 4.6 mL | N1=CC=CC=C1 | C5H5N
product | 2-Methoxy-N-(3-methyl-5-phenyl-1H-pyrazol-4-yl)-acetamide | COCC(=O)NC=1C(=NNC1C1=CC=CC=C1)C | C13H15N3O2
